US04960902
Step (1) Preparation of 2-Trifluoromethoxyphenylhydrazine Hydrochloride
A solution of o-trifluoromethoxyaniline (1.77 g, 10 mmol) in cold, concentrated HCl (11.6 mL) was diazotized at -5° C. (internal temperature) with a solution of NaNO2 (0.69 g, 10 mmol) in water (11 mL). After 15-20 minutes the mixture was treated portionwise with a cold (0° C.) solution of tin (II)chloride dihydrate (4.5 g, 20 mmol) in concentrated HCl (4 mL). Stirring was continued for another 3 hours with the ice bath warming to room temperature after one hour. The suspension was recooled, basified with 50% NaOH (to pH 14) and extracted with ether. The extracts were washed with 1N NaOH, water and brine, dried (MgSO4) and acidified with an excess of ethereal HCl. Removal of the solvent in vacuo yielded the title compound as an off-white solid (2 g, 88%). It was used without further purification.

reactant | o-trifluoromethoxyaniline | 10 mmol, 1.77 g | FC(OC1=C(N)C=CC=C1)(F)F | C7H6F3NO
reactant | NaNO2 | 10 mmol, 0.69 g | N(=O)[O-].[Na+]
reactant | tin (II)chloride dihydrate | 20 mmol, 4.5 g | O.O.[Sn](Cl)Cl
reactant | NaOH | pH 14 | [OH-].[Na+]
solvent | water | 11 mL | O | H2O
solvent | HCl | 4 mL | Cl | ClH
solvent | HCl | 11.6 mL | Cl | ClH
product | 2-Trifluoromethoxyphenylhydrazine Hydrochloride | 2 g, 88% | Cl.FC(OC1=C(C=CC=C1)NN)(F)F | InChI=1S/C7H7F3N2O.ClH/c8-7(9,10)13-6-4-2-1-3-5(6)12-11;/h1-4,12H,11H2;1H
